US04049717
Preparation of (S)-1,2,3,4-tetrahydro-4-oxo-1-naphthylamine hydrochloride
A 20 g. sample of (S)-N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide is stirred with 600 ml. of 6N HCl and the mixture is heated to reflux for 24 hours. After allowing to stand for 48 hours, the aqueous solution is decanted and the remaining tar is washed with 200 ml. of H2O. The combined aqueous solutions are washed with CHCl3 (3×200 ml.) and the organic washes are counter-washed with 200 ml. of H2O. The combined aqueous solutions are filtered through celite and the filter cake is washed with 50 ml. of H2O. The aqueous filtrates are then evaporated to dryness in vacuo to afford the title compound, m.p. 230° C. to 235° C.

reactant | (S)-N-(1,2,3,4-tetrahydro-4-oxo-1-naphthyl)acetamide | O=C1CC[C@@H](C2=CC=CC=C12)NC(C)=O | C12H13NO2
reactant | HCl | 6N | Cl | ClH
product | (S)-1,2,3,4-tetrahydro-4-oxo-1-naphthylamine hydrochloride | Cl.O=C1CC[C@@H](C2=CC=CC=C12)N | InChI=1S/C10H11NO.ClH/c11-9-5-6-10(12)8-4-2-1-3-7(8)9;/h1-4,9H,5-6,11H2;1H/t9-;/m0./s1
